US09079889B2
To a solution of methyl 6-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-5-fluoropicolinate (1.0 equiv.) in THF/MeOH (2:1, 0.09 M) was added LiOH (1.5 equiv.). The reaction mixture was stirred overnight at room temperature, then 1N HCl and ethyl acetate were added, the organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated to give 6-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-5-fluoropicolinic acid as a mixture of isomers (3:1) in 82% yield. LC/MS=354.2 (M+H), Rt=1.38 and 1.41 min.

reactant | methyl 6-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-5-fluoropicolinate | 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C1=C(C=CC(=N1)C(=O)OC)F | C19H30FNO3Si
reactant | LiOH | 1.5 equiv. | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF MeOH | 0.09 M | C1CCOC1.CO
product | 6-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-5-fluoropicolinic acid | 82% yield | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C1=C(C=CC(=N1)C(=O)O)F | C18H28FNO3Si
